US05986024
Dichloro, diindenyl silane (6.45 g) was slurried in 20 mL hexanes and 10 mL diethyl ether. The mixture was cooled to 0° C. and 9.2 mL of cyclohexylamine in 10 mL hexanes was added slowly. The mixture was heated to reflux for 1 h, cooled and filtered. The solvent was removed to give di(cyclohexylamino)diindenyl silane as a tan solid (7.60 g).

reactant | diindenyl silane | 6.45 g | C1(C=CC2=CC=CC=C12)[SiH2]C1C=CC2=CC=CC=C12 | C18H16Si
reactant | cyclohexylamine | 9.2 mL | C1(CCCCC1)N | C6H13N
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | di(cyclohexylamino)diindenyl silane | 7.60 g | C1(CCCCC1)N[Si](C1C=CC2=CC=CC=C12)(C1C=CC2=CC=CC=C12)NC1CCCCC1 | C30H38N2Si
